Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___
 
Chief Complaint:
High degree AV block
 
Major Surgical or Invasive Procedure:
___: Dual chamber PPM implant

 
History of Present Illness:
Ms. ___ is a ___ y/o F w/ Alzheimer's Disease, Mitral and Aortic
regurgitation, and heart failure (unknown EF), presenting now as
a transfer for further management of high degree AV block. 

Much of the history was obtained from the patient's daughter
given patient is still slightly altered.

Per her daughter, patient was having more frequent episodes of
confusion and non-bizarre delusions recently, mainly regarding
people stealing her things. The day prior to presentation to
___, her daughter noted she was completely
disoriented and hallucinating, talking to people who were not
there. The night prior to presentation, it was assumed patient
suffered a fall, as she was found the next morning to have new
facial bruising. Given these changes, it was recommended by the
staff at her assisted living facility she present to ___. 

While there, she had a CT head that was negative. Her UA showed
___ WBC and ___ bacteria, and was started on CTX for presumed
UTI. This was stopped after three days. She was also noted to
have intermittent heart block on EKG, initially concerning for
2:1 AV block vs CHB. Tele showed intermittent pauses. Cardiology
was consulted there, who recommended transfer to ___ for
further evaluation and consideration of a pacemaker.   

On arrival to the CCU, patient is complaining of a mild headache
that started in the ambulance ride over, but otherwise reports
feeling well. She denies any chest pain, shortness of breath, or
dizziness. 
 
Past Medical History:
Cardiac History:  
- Congestive heart failure (unknown EF)  
- Mitral and Aortic Regurgitation 
Other PMH:  
- Alzheimer's Dementia  
 
Social History:
___
Family History:
No significant history of cardiac disease. 
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
VS: Reviewed in Metavision  
GENERAL: Elderly appearing female in no acute distress   
HEENT: Ecchymosis noted over right eye. No other apparent
lesions.   
CARDIAC: Regular hear rate and rhythm. ___ systolic murmur
appreciated at the apex.  
LUNGS: No increased work of breathing. CTAB
ABDOMEN: Soft, non-tender, non-distended. 
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
NEURO: CNII-XII grossly intact. Difficult to ascertain
orientation, but per daughter, patient does not know date or
location 

DISCHARGE PHYSICAL EXAMINATION:   
Vitals: ___ 0754 Temp: 98.0 PO BP: 148/64 R Lying HR: 79 
RR:
16 O2 sat: 99% O2 delivery: RA 
GEN: AAOx3, NAD
HEENT: NC, AT, MMM, no JVD, no carotid bruits
___: S1 S2 RRR no MRG appreciated
L-shoulder PPM implant site: pressure dressing removed,
underlying dressing is clean/dry/intact. There is no edema,
erythema or ecchymosis. The wound is mildly tender to palpation. 

RESP: CTAB, good respiratory effort
ABD: soft, NT, ND, NBS, no hepatomegaly
EXT: warm, well-perfused, nonedematous
NEURO: CN II-XII grossly intact, grossly normal/nonfocal exam

TELEMETRY: SR with V-pacing, with episode of nonsustained AT v
PMT rate ~140-150bpm
 
Pertinent Results:
ADMISSION LABS
___ 05:29AM BLOOD WBC-3.4* RBC-4.01 Hgb-11.6 Hct-36.1 
MCV-90 MCH-28.9 MCHC-32.1 RDW-13.2 RDWSD-43.2 Plt Ct-94*
___ 05:29AM BLOOD ___ PTT-31.7 ___
___ 05:29AM BLOOD Glucose-102* UreaN-13 Creat-0.8 Na-143 
K-3.9 Cl-106 HCO3-25 AnGap-12
___ 05:29AM BLOOD ALT-15 AST-18 LD(LDH)-189 AlkPhos-36 
TotBili-0.6
___ 05:29AM BLOOD Albumin-4.0 Calcium-8.7 Phos-3.2 Mg-2.0

DISCHARGE LABS
___ 06:28AM BLOOD WBC-4.9 RBC-4.12 Hgb-11.9 Hct-36.7 MCV-89 
MCH-28.9 MCHC-32.4 RDW-13.2 RDWSD-43.0 Plt Ct-96*
___ 06:28AM BLOOD UreaN-15 Creat-0.8 Na-143 K-4.0
___ 06:28AM BLOOD Mg-1.9

MICRODATA
___ URINE CULTURE (Final ___:    NO GROWTH

REPORTS
TTE (___):
CONCLUSION:
The left atrial volume index is normal. There is no evidence for 
an atrial septal defect by 2D/color Doppler. There is normal 
left ventricular wall thickness with a normal cavity size. There 
is normal regional and global
left ventricular systolic function. Quantitative biplane left 
ventricular ejection fraction is 62 % (normal 54-73%). There is 
no resting left ventricular outflow tract gradient. Normal right 
ventricular cavity size with normal free wall motion. Tricuspid 
annular plane systolic excursion (TAPSE) is normal. The aortic 
sinus diameter is normal for gender with normal ascending aorta 
diameter for gender. The aortic arch diameter is
normal with a normal descending aorta diameter. The aortic valve 
leaflets (3) are mildly thickened. There is no aortic valve 
stenosis. There is moderate [2+] aortic regurgitation. The 
mitral valve leaflets appear
structurally normal with no mitral valve prolapse. There is mild 
[1+] mitral regurgitation. The pulmonic valve leaflets are 
normal. The tricuspid valve leaflets appear structurally normal. 
There is mild to moderate [___] tricuspid regurgitation. There 
is mild pulmonary artery systolic hypertension. There is a 
trivial pericardial effusion.
IMPRESSION: Normal left ventricular wall thickness and 
biventricular cavity sizes and regional/ global systolic 
function. Mild-moderate aortic regurgitation with mildly 
thickened leaflets. Mild pulmonary artery systolic hypertension. 
Mild mitral regurgitation with normal valve morphology. 
Mild-moderate tricuspid regurgitation.
CLINICAL IMPLICATIONS: Based on the echocardiographic findings 
and ___ ACC/AHA recommendations, antibiotic prophylaxis is NOT 
recommended.

EP REPORT (___):
Findings
___ with CHB referred for PPM placement.
RA/RV placed via L cephalic vein.
Device placed in subpectoral plane given limited superficial 
tissue for closure.
No complications.

 
Brief Hospital Course:
Ms. ___ is a ___ y/o F w/ Alzheimer's Dementia, congestive
heart failure (unknown EF), and mitral and aortic regurgitation,
presenting now with high degree AV block for which PPM was 
placed on ___

ACUTE ISSUES:  
=============  
#. High Degree AV Block 
Found to have high degree AV block with unclear etiology, though 
on previous EKGs patient noted to have a RBBB. Most likely 
idiopathic, with consideration for slow progression of 
fibrosis/sclerosis. Low suspicion for ischemic heart disease 
given lack of other consistent EKG findings or symptoms. Per 
patient's GOC, her daughter does not feel she would want TVP 
given the risks and discomfort of the procedure, however would 
like a permanent pacemaker to improve overall quality of life. 
TTE showed LVEF 62%, normal LV thickness, fxn, 2+ AR,  1+ MR, 
___ TR. Heparin products were held prior to PPM placement. EP 
placed PPM on ___ vis cephalic access. Chest xray negative 
for pneumothorax.
- Device ___ in 1 week
- Dr. ___ ___ weeks
- No antibiotics

#. Toxic Metabolic Encephalopathy 
#. Alzheimer's Disease 
#. Delirium 
Suspect patient's altered mental status is likely multifactorial 
in setting of heart block, possible UTI (negative), and 
delirium, all in setting of underlying Alzheimer's Disease. This 
appears to have improved to some degree with family at bedside 
and placement of device with restoration of rates 60-70s. She 
was continued on home sertraline. 

#. Suspected Fall
Unwitnessed, but with facial trauma concerning for fall. 
Reassuringly, CT head at outside hospital unremarkable. This was 
suspected to be  in setting of heart block vs altered mental 
status. Independent in activities and ambulating halls without 
limitation. Plan for d/c to home with daughter and private ___.

#. Possible UTI
Treated for three days at outside hospital with CTX. Repeat UCx 
at OSH and ___ were both negative 

#. CHF 
#. Mitral/Aortic Regurgitation 
-TTE was notable notable for LVEF 62%, normal LV thickness, fxn, 
2+ AR,  1+ MR, ___ TR

CORE MEASURES:  
==============  
#LANGUAGE: ___
#CODE: DNR/DNI   

TRANSITIONAL ISSUES
==================
Plan for d/c home with daughter and private ___.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 50 mg PO DAILY 
2. Vitamin D ___ UNIT PO DAILY 
3. Cyanocobalamin 1000 mcg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Cyanocobalamin 1000 mcg PO DAILY  
3.  Multivitamins 1 TAB PO DAILY  
4.  Sertraline 50 mg PO DAILY  
5.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Complete atrioventricular block

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

Physical Exam: 
Vitals: ___ 0754 Temp: 98.0 PO BP: 148/64 R Lying HR: 79 
RR:
16 O2 sat: 99% O2 delivery: RA 
GEN: AAOx3, NAD
HEENT: NC, AT, MMM, no JVD, no carotid bruits
___: S1 S2 RRR no MRG appreciated
L-shoulder PPM implant site: pressure dressing removed,
underlying dressing is clean/dry/intact. There is no edema,
erythema or ecchymosis. The wound is mildly tender to palpation. 

RESP: CTAB, good respiratory effort
ABD: soft, NT, ND, NBS, no hepatomegaly
EXT: warm, well-perfused, nonedematous
NEURO: CN II-XII grossly intact, grossly normal/nonfocal exam

TELEMETRY: SR with V-pacing, with episode of nonsustained AT v
PMT rate ~140-150bpm

 
Discharge Instructions:
Dear Ms. ___,

WHY WERE YOU ADMITTED TO THE HOSPITAL?  
 -  You came to the hospital for an irregularly slow heart 
rhythm. 
 
 WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL?  
 -  You had a permanent pacemaker placed on ___, without 
complications. Included in your discharge paperwork is activity 
restrictions and left chest site care instructions. 
 
 WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?  
 - Take all of your medications as prescribed (listed below)  
 - Follow up with your doctors as listed below. 
 - Seek medical attention if you have new or concerning symptoms 
or you develop swelling in your legs, abdominal distention, or 
shortness of breath at night. 

 It has been a pleasure to have participated in your care. If 
you have any questions related to recovery from your procedure 
or are experiencing any symptoms that are concerning to you, 
please call
the ___ Heartline at ___ to speak with a cardiologist 
or cardiac nurse practitioner.
 

 We wish you all the best!  
 - Your ___ Care Team  
 
Followup Instructions:
___